US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Diethylamide
4-[4-(2-Aminoethyl)anilino]-N,N-diethyl-1-piperidinecarboxamide formate (0.37 g, 1.01 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane silane (0.367 g, 0.909 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.159 g, 0.22 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N,N-diethyl-1-piperidinecarboxamide formate | 1.01 mmol, 0.37 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)N(CC)CC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane silane | 0.909 mmol, 0.367 g | [SiH4].C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Diethylamide | 0.22 mmol, 0.159 g | C(C)N(C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)CC | C27H40N4O4
